US08349880B2
Step AAM (1): 2-(4-(Trifluoromethylthio)phenyl)acetic acid (4.7 g, 19.9 mmol) was deprotonated with NaHMDS 2.0 M in THF (19.9 mL, 39.8 mmol) and reacted with 1-chloro-4-iodobutane (2.44 mL, 19.9 mmol) using a procedure analogous to Step AC (1) to afford 6-chloro-2-(4-(trifluoromethylthio)-phenyl)hexanoic acid (3.07 g, 9.40 mmol, 47% yield) as a pale-yellow oil. LC-MS (M−H)− 325.2. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 1.32-1.51 (m, 2 H) 1.69-1.87 (m, 3 H) 2.01-2.17 (m, 1 H) 3.49 (t, J=6.56 Hz, 2 H) 3.59 (t, J=7.63 Hz, 1 H) 7.36 (d, J=8.24 Hz, 2 H) 7.61 (d, J=8.24 Hz, 2 H).

reactant | 2-(4-(Trifluoromethylthio)phenyl)acetic acid | 19.9 mmol, 4.7 g | FC(SC1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2S
reactant | NaHMDS | 2.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 39.8 mmol, 19.9 mL | C1CCOC1 | C4H8O
reactant | 1-chloro-4-iodobutane | 19.9 mmol, 2.44 mL | ClCCCCI | C4H8ClI
product | 6-chloro-2-(4-(trifluoromethylthio)-phenyl)hexanoic acid | 9.40 mmol, 3.07 g, 47% yield | ClCCCCC(C(=O)O)C1=CC=C(C=C1)SC(F)(F)F | C13H14ClF3O2S
